US04946855
Tetrazole-5-carboxylic acid can be prepared by treating ethyl cyanoformate with sodium azide and ammonium chloride to form ethyl tetrazole-5-carboxylate, which is hydrolyzed with alkali (e.g., KOH) to give alkali tetrazole-5-carboxylate, according to the method described in J. Med. Chem. 19, 289(1976) and Ibid, 29, 538(1986).

reactant | Tetrazole-5-carboxylic acid | N1N=NN=C1C(=O)O | C2H2N4O2
reactant | ethyl cyanoformate | C(#N)C(=O)OCC | C4H5NO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
product | ethyl tetrazole-5-carboxylate | N1N=NN=C1C(=O)OCC | C4H6N4O2
